US04925838
To a suspension of sodium borohydride (0.71 g) in tetrahydrofuran (25 ml) was added dropwise boron trifluoride etherate (11.8 ml) under ice-cooling and stirred at the same temperature for 10 minutes. To the mixture was added a solution of (2S,4R)-2-[3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl]carbonyl-4-methanesulfonyloxy1-(4-nitrobenzyloxycarbonyl)pyrrolidine (4.73 g) in tetrahydrofuran (50 ml) and the mixture was stirred at ambient temperature overnight. To the reaction mixture was added dropwise methanol (60 ml) under ice-cooling and evaporated in vacuo. The resulting residue was dissolved in methanol (30 ml) and conc. hydrochloric acid (1 ml) and stirred at ambient temperature for 3 hours. The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (100 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride successively, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (19:1, V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-2-[3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl]methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.70 g).

reactant | sodium borohydride | 0.71 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 11.8 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-2-[3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl]carbonyl-4-methanesulfonyloxy1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.73 g | OCCN1C(N(CC1)C(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H24N4O10S
reactant | methanol | 60 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-2-[3-(2-hydroxyethyl)-2-oxoimidazolidin-1-yl]methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.70 g | OCCN1C(N(CC1)C[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N4O9S
